US07608629B2
Preparation 20. 4-(5-Bromo-2-methyl-phenoxy)-1-methyl-piperidine
Add sodium hydride (60% dispersion in oil, 880 mg, 22 mmol) to a solution of 4-hydroxy-1-methyl-piperidine (2.304 g, 20 mmol) in DMF (12 mL), stir. After 30 min., add 4-bromo-2-fluorotoluene (4.159 g, 22 mmol) and beat at 70° C. After 21 hr., quench the reaction with saturated NaHCO3 solution, extract with ether three times, combine the organic layers, wash with saturated NaCl solution, dry over Na2SO4, filter and concentrate to give a residue. Purify by chromatography (silica gel, eluting with 6% 2M NH3-methanol in CH2Cl2) provides of the title compound as a slightly yellow oil (3.90 g, 69%). Mass spectrum (ion spray): m/z=284.0 (M+1); 1H NMR (CDCl3, ppm): 7.01 (m, 3H), 4.35 (m, 1H), 2.66 (m, 2H), 2.36 (m, 2H), 2.34 (s, 3H), 2.19 (s, 3H), 2.03 (m, 2H), 1.85 (m, 2H).

reactant | sodium hydride | 22 mmol, 880 mg | [H-].[Na+]
reactant | 4-hydroxy-1-methyl-piperidine | 20 mmol, 2.304 g | OC1CCN(CC1)C | C6H13NO
reactant | 4-bromo-2-fluorotoluene | 22 mmol, 4.159 g | BrC1=CC(=C(C=C1)C)F | C7H6BrF
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 4-(5-Bromo-2-methyl-phenoxy)-1-methyl-piperidine | BrC=1C=CC(=C(OC2CCN(CC2)C)C1)C | C13H18BrNO
